US08466283B2
Step 4: Preparation of 4-(benzyloxy)-3-methoxy-2-nitrobenzonitrile
Iodine (272 g, 1.1 mmol) was added to a mixture of 4-(benzyloxy)-3-methoxy-2-nitrobenzaldehyde (220 g, 766 mmol) and ammonium hydroxide (28% solution, 3 L) dissolved in THF (5 L). After 16 h the reaction mixture was treated with sodium sulfite (49 g, 383 mmol) and concentrated under reduced pressure to afford a thick slurry. The slurry was filtered, washed with water (250 mL) and dried to afford the title compound as a solid (206 g, 95%): 1H NMR (DMSO-d6) δ: 7.89 (1H, d), 7.59 (1H, d), 7.49 (2H, m), 7.40 (3H, m), 5.35 (2H, s), 3.91 (3H, s).

reactant | Iodine | 1.1 mmol, 272 g | II | I2
reactant | 4-(benzyloxy)-3-methoxy-2-nitrobenzaldehyde | 766 mmol, 220 g | C(C1=CC=CC=C1)OC1=C(C(=C(C=O)C=C1)[N+](=O)[O-])OC | C15H13NO5
reactant | ammonium hydroxide | 3 L | [OH-].[NH4+]
reactant | sodium sulfite | 383 mmol, 49 g | S(=O)([O-])[O-].[Na+].[Na+]
solvent | THF | 5 L | C1CCOC1 | C4H8O
product | 4-(benzyloxy)-3-methoxy-2-nitrobenzonitrile | 206 g, 95% | C(C1=CC=CC=C1)OC1=C(C(=C(C#N)C=C1)[N+](=O)[O-])OC | C15H12N2O4
